US06756382B2
Using the general method of Example 205, 1-(3-aminopropyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (2.00 g, 7.83 mmol) was reacted with cyclopentanecarbonyl chloride (1.04 g, 7.83 mmol) to provide 1.67 g of N-[3-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]cyclopentanecarboxamide as a solid, m.p. 207.8-208.9° C. Analysis: Calculated for C20H25N5O: % C, 68.35; % H, 7.17; % N, 19.93. Found: % C, 68.09; % H, 7.19; % N, 20.09.

reactant | 1-(3-aminopropyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 7.83 mmol, 2.00 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C14H17N5
reactant | cyclopentanecarbonyl chloride | 7.83 mmol, 1.04 g | C1(CCCC1)C(=O)Cl | C6H9ClO
product | N-[3-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]cyclopentanecarboxamide | 1.67 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNC(=O)C2CCCC2)C | C20H25N5O
